US07763731B2
Trifluoro-methanesulfonic acid 4-methyl-2-nitro-phenyl ester
A solution of the 4-methyl-2-nitro phenol (6.0 g, 39.1 mmol) and Et3N (16.38 mL, 117.5 mmol) in 100 mL of CH2Cl2 under a N2 atmosphere was treated with trifluoromethanesulfonic anhydride (7.25 mL, 43.1 mmol) at 0° C. for 30 min. Quenched by addition of MeOH. Washed sequentially with 10% citric acid, 0.5 m KOH and water. Dried over MgSO4, filtered and concentrated under vacuum giving the title compound which was purified by silica gel column chromatography eluting with CH2Cl2 giving an amber oil (11.22 g, 100%).

reactant | 4-methyl-2-nitro phenol | 39.1 mmol, 6.0 g | CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | Et3N | 117.5 mmol, 16.38 mL | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 43.1 mmol, 7.25 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-methyl-2-nitro-phenyl ester | CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO5S
